US07319101B2
a) 6-Dimethylcarbamoyl-2,2-diphenyl-1,3-benzodioxole-4-carboxylic acid
6-Bromo-2,2-diphenyl-1,3-benzodioxole-4-carboxylic acid (200 mg, 0.486 mmol), LiH (10 mg, 0.97 mmol, 2 eq.) and dimethylcarbamoylchloride (0.18 mL, 1.94 mmol, 4 eq.) as the electrophile were reacted according to GP4, Method B. The crude product was purified using flash chromatography (silica gel, hexane/EtOAc/AcOH 67:30:3) to give the title compound as a colorless solid.

reactant | 6-Bromo-2,2-diphenyl-1,3-benzodioxole-4-carboxylic acid | 0.486 mmol, 200 mg | BrC=1C=C(C2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)C(=O)O | C20H13BrO4
reactant | LiH | 0.97 mmol, 10 mg, 2 eq. | [H-].[Li+]
reactant | dimethylcarbamoylchloride | 1.94 mmol, 0.18 mL, 4 eq. | CN(C(=O)Cl)C | C3H6ClNO
product | 6-Dimethylcarbamoyl-2,2-diphenyl-1,3-benzodioxole-4-carboxylic acid | CN(C(=O)C=1C=C(C2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)C(=O)O)C | C23H19NO5
